US05801170
N,N-Dimethyl-3-(4-nitrophenoxy)propylamine
A stirred solution of diethyl azodicarboxylate (4.6 ml, 0.029 mole) and triphenylphosphine (7.60 g, 0.029 mole) in dry TBF (100 ml) was cooled to 0° C. 3-(Dimethylamino)propanol (3.43 ml, 0.029 mole) was added, followed by 4-nitrophenol (4.0 g, 0.029 mole) and the reaction mixture was stirred for 18 h at room temperature. The solvent was removed in vacuo, and the residue partitioned between 5N HCl and ethyl acetate. The aqueous layer was basified with 10% NaOH solution and extracted into ethyl acetate, dried (MgSO4) and evaporated in vacuo to leave the title compound as a yellow oil (3.2 g, 50%).

reactant | diethyl azodicarboxylate | 0.029 mole, 4.6 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | triphenylphosphine | 0.029 mole, 7.60 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 3-(Dimethylamino)propanol | 0.029 mole, 3.43 ml | CN(CCCO)C | C5H13NO
reactant | 4-nitrophenol | 0.029 mole, 4.0 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
product | N,N-Dimethyl-3-(4-nitrophenoxy)propylamine | 3.2 g, 50% | CN(C)CCCOC1=CC=C(C=C1)[N+](=O)[O-] | C11H16N2O3
